US04546104
a. 5-Amino-1-benzyl-4-cyanopyrazole (Formula II R1 =benzyl, R2 =H)
A procedure analogous to that described in Example 1 was followed except 1.55 g (12.7 mM) of ethoxymethylene malononitrile was added to 1.70 g (13.9 mM) of benzylhydrazine in ethanol. Following completion of the reaction 0.82 g (33%) of the product was obtained as a tan solid; tlc, Rf =0.24, silica gel, ethyl acetate:hexane (1:1).

reactant | ethoxymethylene malononitrile | 12.7 mM, 1.55 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | benzylhydrazine | 13.9 mM, 1.70 g | C(C1=CC=CC=C1)NN | C7H10N2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol | C(C)O | C2H6O
product | 5-Amino-1-benzyl-4-cyanopyrazole | NC1=C(C=NN1CC1=CC=CC=C1)C#N | C11H10N4
